US07067540B2
A sealed tube containing a solution of 4-[3-Chloro-4-(2,4-difluorobenzyloxy)-2-oxo-2H-pyridin-1-ylmethyl]benzoic acid methyl ester (0.25 g, 0.60 mmol) and NH3 (20 mL of a 7 N solution in MeOH, 140 mmol) was heated at 75° C. for 16 h. The reaction mixture was cooled to room temperature and the solvent was removed under reduced pressure. Trituration with Et2O/MeOH afforded 4-[3-Chloro-4-(2,4-difluorobenzyloxy)-2-oxo-2H-pyridin-1-ylmethyl]benzamide as a white solid (0.14 g, 60%): mp 235-238° C.; 1H NMR (500 MHz, DMSO-d6) δ 7.93 (d, J=8 Hz, 2H), 7.79 (d, J=8 Hz, 2H), 7.60 (app q, J=8 Hz, 1H), 7.35-7.27 (m, 4H), 7.20-7.10 (m, 1H), 6.61 (d, J=8 Hz, 1H), 5.28 (s, 2H), 5.14 (s, 2H). ES HRMS m/z 405.0788 (M+H C20H16ClF2N2O3 requires 405.0812)

reactant | 4-[3-Chloro-4-(2,4-difluorobenzyloxy)-2-oxo-2H-pyridin-1-ylmethyl]benzoic acid methyl ester | 0.60 mmol, 0.25 g | COC(C1=CC=C(C=C1)CN1C(C(=C(C=C1)OCC1=C(C=C(C=C1)F)F)Cl)=O)=O | C21H16ClF2NO4
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 4-[3-Chloro-4-(2,4-difluorobenzyloxy)-2-oxo-2H-pyridin-1-ylmethyl]benzamide | 0.14 g, 60% | ClC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)CC1=CC=C(C(=O)N)C=C1)=O | C20H15ClF2N2O3
